US05840917
3-Thiophenecarbaldehyde (22.43 g) was dissolved in toluene (200 ml) and N,N'-dimethylethylenediamine (22.3 ml) was added. The mixture was stirred for 16 hours with removing azeotropic water under reflux by Dean-stark trap. The reaction mixture was concentrated under reduced pressure and the residue was distilled under reduced pressure to give 1,3-dimethyl-2-(3-thienyl)imidazolidine (5.88 g).

reactant | 3-Thiophenecarbaldehyde | 22.43 g | S1C=C(C=C1)C=O | C5H4OS
reactant | N,N'-dimethylethylenediamine | 22.3 ml | CNCCNC | C4H12N2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-dimethyl-2-(3-thienyl)imidazolidine | 5.88 g | CN1C(N(CC1)C)C1=CSC=C1 | C9H14N2S
